US08981084B2
tert-Butyl 4-((2-(4-fluorophenyl)oxazol-4-yl)methyl)piperazine-1-carboxylate
This compound was synthesized from tert-butyl piperazine-1-carboxylate and 2-(4-fluorophenyl)oxazole-4-carbaldehyde as described for example 82 step 3 (240 mg, yield 42%). 1H NMR (400 MHz, CDCl3) δ 8.07-8.03 (dd, J=9.1 Hz, 5.3 Hz, 2H), 7.59 (s, 1H), 7.16-7.12 (t, J=8.8 Hz, 2H), 3.54 (s, 2H), 3.49-3.47 (m, 4H), 2.52-2.49 (m, 4H), 1.46 (s, 9H). MS (ESI) m/z: Calculated for C19H24FN3O3: 361.18. found: 362.2 (M+H)+

reactant | tert-butyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 2-(4-fluorophenyl)oxazole-4-carbaldehyde | FC1=CC=C(C=C1)C=1OC=C(N1)C=O | C10H6FNO2
product | tert-Butyl 4-((2-(4-fluorophenyl)oxazol-4-yl)methyl)piperazine-1-carboxylate | yield 42% | FC1=CC=C(C=C1)C=1OC=C(N1)CN1CCN(CC1)C(=O)OC(C)(C)C | C19H24FN3O3
